US04215220
Reaction of 1-[3-(3,4-dichloroanilino)-2-hydroxypropyl]-imidazole with 2,4-dibromobenzyl chloride yields 1-[2-(2,4-dibromobenzyloxy)-3-(3,4-dichloroanilino)-propyl]-imidazole.

reactant | 1-[3-(3,4-dichloroanilino)-2-hydroxypropyl]-imidazole | ClC=1C=C(NCC(CN2C=NC=C2)O)C=CC1Cl | C12H13Cl2N3O
reactant | 2,4-dibromobenzyl chloride | BrC1=C(CCl)C=CC(=C1)Br | C7H5Br2Cl
product | 1-[2-(2,4-dibromobenzyloxy)-3-(3,4-dichloroanilino)-propyl]-imidazole | BrC1=C(COC(CN2C=NC=C2)CNC2=CC(=C(C=C2)Cl)Cl)C=CC(=C1)Br | C19H17Br2Cl2N3O
